Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left-sided abdominal pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ y/o male with history of alcohol use as 
well as esophagitis c/b previous GI bleeding (requiring blood 
transfusions in ___ and ___ presents as a transfer 
from ___ with splenic infarct i/s/o acute onset 
LUQ/ LLQ pain. Patient was in his usual state of health until 
___ when he woke up and had coffee ground emesis and "black" 
diarrhea. ___ he developed severe left upper and lower 
quadrant dull and sharp abdominal pain that was worse with 
position (lying on left rather than right side). Pts last bowel 
movement was ___ which he describes as "black" and he has 
not had any other episodes of coffee ground emesis since 
arrival. He does have a prior history of coffee ground emesis 2x 
previously for which he has had two EGD's in ___ and 
___, both of which patient describes as unrevealing 
(records indicate esophagitis and esophagitis and hiatal 
hernia). Denies excess NSAID utilization but does endorse 
increased stress from recent divorce. 

 
Brief Hospital Course:
He presented to ___ in ___ (___) 
to urgent care for which he had blood work, urinalysis and x-ray 
to evaluate for nephrolithasis. Due to the severity of the pain 
___ severity) with lack of improvement he went to ___ on 
___ where he was found to be hemodynamically stable, 
afebrile and tachycardic to 100. Physical exam at the time 
revealed LUQ tenderness, FOBT positive stools, leukocytosis of 
17.2 and hemoglobin of 10.2 UA was negative, repeat hemoglobin 
hours later was 9.4. LFTs were normal INR 1.2. CT scan w/ IV 
contrast revealed moderate splenomegaly with extensive posterior 
and inferior splenic infarct vs splenic laceration, short 
segment jejunal intussuception, multiple right and left hepatic 
cysts and findings concerning for RCC. He was transferred to 
___ for further management and consult for surgery to evaluate 
for possible splenic laceration. On arrival his hgb was 8.8 and 
stable. Imaging and history was reviewed and it was felt to be a 
splenic infact (not laceration) not requiring further 
intervention at this time. He was discharged to home on ___ 
with instructions to follow-up with Urology and his Primary care 
physician. 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
2.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 10 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*15 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Splenic infarct. Right renal mass, unspecified. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ with 
abdominal pain and findings of a possible splenic infarct (blood 
clot) in your spleen. In addition, the CT scan showed a possible 
mass in your kidney. An ECHO of your heart was performed. You 
are recovering well and are now ready for discharge. Please 
follow the instructions below and make the following 
appointments to continue your recovery:

Spleen infarction:
*AVOID contact sports and/or any activity that may cause injury 
to your abdominal area for the next ___ weeks.
 

 
Followup Instructions:
___